* N-Channel JFET Transfer Curve (Id vs Vgs)
* DC sweep of the gate voltage around the pinch-off region while
* the drain is held above saturation. Produces the characteristic
* Id(Vgs) curve used to extract Vto and IDSS.
* Devices exercised: V, R, J (NJF bundled 2N3819).

.title NJF Transfer Curve

* --- Drain supply (constant) ---
Vdd vdd 0 DC 10

* --- Gate sweep voltage ---
Vgs gate 0 DC 0

* --- Drain series resistor turns the JFET into a familiar self-biased stage ---
Rd vdd drain 1k

* --- JFET under test (drain / gate / source) ---
J1 drain gate 0 2N3819

* --- Analysis: sweep Vgs across the device's active region ---
.dc Vgs -3 0 0.02

.MEASURE DC id_at_vgs0    FIND I(Vdd) AT=0
.MEASURE DC id_at_vgs_neg2 FIND I(Vdd) AT=-2

.end
